US05643958
(2) Preparation of (2RS,3SR,5E)-3-(4-chlorophenyl)-6-(2-naphthyl)-5-hexen-2-ol
4.78 g of (E)-3-(4-chlorophenyl)-6-(2-naphthyl)-5-hexen-2-one was dissolved in 30 ml of tetrahydrofuran, and 14.3 ml of a 1M tetrahydrofuran solution of lithium tri-sec-butyl borohydride was added at -78° C. under cooling with stirring, followed by stirring at the same temperature for 2 hours. To the reaction solution, 10 ml of a 2N sodium hydroxide aqueous solution was added under cooling with ice with stirring, and then, 15 ml of a 30% hydrogen peroxide aqueous solution was gradually dropwise added, followed by stirring at room temperature for one hour. The reaction solution was extracted by an addition of ethyl ether and water. The organic layer was washed with a saturated sodium thiosulfate aqueous solution and a saturated sodium chloride aqueous solution and then dried over anhydrous magnesium sulfate. The drying agent was filtered off, and then, the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=15/1→5/1) to obtain 4.06 g of the above-identified compound.

reactant | (E)-3-(4-chlorophenyl)-6-(2-naphthyl)-5-hexen-2-one | 4.78 g | ClC1=CC=C(C=C1)C(C(C)=O)C\C=C\C1=CC2=CC=CC=C2C=C1 | C22H19ClO
reactant | lithium tri-sec-butyl borohydride | C(C)(CC)[BH-](C(C)CC)C(C)CC.[Li+]
reactant | sodium hydroxide | 2N | [OH-].[Na+]
reactant | hydrogen peroxide | OO | H2O2
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1M | O1CCCC1 | C4H8O
product | (2RS,3SR,5E)-3-(4-chlorophenyl)-6-(2-naphthyl)-5-hexen-2-ol | 4.06 g | ClC1=CC=C(C=C1)C(C(C)O)C\C=C\C1=CC2=CC=CC=C2C=C1 | C22H21ClO
